US07795280B2
b) 1-Pyrimidin-5-ylmethyl-1H-indol-6-ylamine
6-Nitro-1-pyrimidin-5-ylmethyl-1H-indole (4.1 g, 16.1 mmol) was dissolved in 100 mL of THF and 100 mL of isopropanol. Pd/C (2 g) was added and the mixture was stirred under an H2-atmosphere (balloon) for 2 hours. The mixture was filtered over Celite and washed with ethyl acetate affording the title compound after concentration (3.5 g, 15.6 mmol, 97%).

reactant | 6-Nitro-1-pyrimidin-5-ylmethyl-1H-indole | 16.1 mmol, 4.1 g | [N+](=O)([O-])C1=CC=C2C=CN(C2=C1)CC=1C=NC=NC1 | C13H10N4O2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | isopropanol | 100 mL | C(C)(C)O | C3H8O
catalyst | Pd/C | 2 g | [Pd] | Pd
product | 1-Pyrimidin-5-ylmethyl-1H-indol-6-ylamine | N1=CN=CC(=C1)CN1C=CC2=CC=C(C=C12)N | C13H12N4
